US07994185B2
Step B: 2,4-Difluoro-N-{2-fluoro-5-[2-(1-methylethyl)-5-(2-{[2-(methylsulfonyl)ethyl]amino}-4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide
[2-(Methylsulfonyl)ethyl]amine (352 mg, 2.86 mmol) and N-{5-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,4-difluorobenzenesulfonamide (150 mg, 0.286 mmol) were combined and heated to 55° C. overnight. Isopropanol (1 mL) was added to the reaction mixture and stirred an additional 30 min. The reaction mixture was cooled to rt and partitioned between DCM and 10% aqueous HCl. The organic layer was separated and dried over MgSO4, filtered, and concentrated over silica gel. The crude product was chromatographed on silica gel eluting with 100% DCM to 6:4 [DCM:(9:1 EtOAc:MeOH)]. The clean fractions were combined and concentrated to obtain the title compound as a white foam (82.1 mg; 45% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.65 (s, 1H) 8.14 (d, J=4.2 Hz, 1H) 7.72 (q, J=7.6 Hz, 1H) 7.54 (t, J=9.7 Hz, 1H) 7.47 (br. s., 1H) 7.30-7.42 (m, 2H) 7.11-7.30 (m, 2H) 6.23 (d, J=1.2 Hz, 1H) 3.64 (d, J=0.9 Hz, 2H) 3.20-3.40 (m, 2H range includes water peak) 2.99 (s, 3H) 1.33 (d, J=6.7 Hz, 6H). MS (ESI): 612.2 [M+H]+.

reactant | [2-(Methylsulfonyl)ethyl]amine | 2.86 mmol, 352 mg | CS(=O)(=O)CCN | C3H9NO2S
reactant | N-{5-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,4-difluorobenzenesulfonamide | 0.286 mmol, 150 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C=CC(=C(C1)NS(=O)(=O)C1=C(C=C(C=C1)F)F)F | C22H16ClF3N4O2S2
solvent | Isopropanol | 1 mL | C(C)(C)O | C3H8O
product | 2,4-Difluoro-N-{2-fluoro-5-[2-(1-methylethyl)-5-(2-{[2-(methylsulfonyl)ethyl]amino}-4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide | 82.1 mg, 45% yield | FC1=C(C=CC(=C1)F)S(=O)(=O)NC1=C(C=CC(=C1)C=1N=C(SC1C1=NC(=NC=C1)NCCS(=O)(=O)C)C(C)C)F | C25H24F3N5O4S3
